US07173031B2
A) 5-Bromomethyl-4-chloro-pyrrolo[2,1-f][1,2,4]triazine
A mixture of 4-chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine (2.0 g, 11.93 mmol, WO 03/042172) and AIBN (195 mg, 1.19 mmol) in CCl4 (80 mL) under N2 was heated to 100° C. for 5 min, NBS (2.55 g, 14.3 mmol) was added. The reaction mixture was stirred for 10 min, then cooled to rt, filtered. The CCl4 layer was washed with dilute NaHCO3 aqueous solution, dried (MgSO4), filtered and concentrated to give the desired product (2.70 g, 92%).

reactant | 4-chloro-5-methyl-pyrrolo[2,1-f][1,2,4]triazine | 11.93 mmol, 2.0 g | ClC1=NC=NN2C1=C(C=C2)C | C7H6ClN3
reactant | AIBN | 1.19 mmol, 195 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | NBS | 14.3 mmol, 2.55 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethyl-4-chloro-pyrrolo[2,1-f][1,2,4]triazine | 2.70 g, 92% | BrCC=1C=CN2N=CN=C(C21)Cl | C7H5BrClN3
